US08071807B2
{4-Methoxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester (1.5 g, 3.6 mmol) was treated with 48% hydrogen bromide in acetic acid (1:1; 20 mL) at 100° C. overnight. After work-up with EtOAc and H2O, the crude material was purified by preparative HPLC to give {4-hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid.

reactant | {4-Methoxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | 3.6 mmol, 1.5 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C20H20F3NO6S
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | {4-hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid | OC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F | C17H14F3NO6S
